US07968746B2
Oxidation as described in protocol B, using 113.2 mg (0.302 mmol) of 6-hydroxy-2,5,7,8-tetramethyl-N-(3-(2-oxopyrrolidin-1-yl)propyl)chroman-2-carboxamide and 364.6 mg CAN (0.665 mmol) yielded 118 mg of 2-hydroxy-2-methyl-N-(3-(2-oxopyrrolidin-1-yl)propyl)-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow oil.

reactant | 6-hydroxy-2,5,7,8-tetramethyl-N-(3-(2-oxopyrrolidin-1-yl)propyl)chroman-2-carboxamide | 0.302 mmol, 113.2 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCCN1C(CCC1)=O)C)C | C21H30N2O4
reactant | CAN | 0.665 mmol, 364.6 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | 2-hydroxy-2-methyl-N-(3-(2-oxopyrrolidin-1-yl)propyl)-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 118 mg | OC(C(=O)NCCCN1C(CCC1)=O)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C21H30N2O5
